US07964607B2
(c) 5-amino-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxamide
A stirred solution of 5-amino-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carbonitrile (˜228 mmol) in ethanol (300 mL) was treated with 35% aqueous H2O2 (100 mL) followed by aqueous ammonia (300 mL). The reaction mixture was stirred for 48 h at ambient temp and then quenched with aq saturated sodium thiosulfate (800 mL) and concentrated under reduced pressure to remove most of the ethanol. The resulting solid was removed by filtration and washed with water (2×200 mL) and ether (2×150 mL). The solid was dried in vacuo to constant weight (31 g, 65% yield for 2 steps). 400 MHz 1H NMR (CD3OD) δ 7.67 (s, 1H), 4.27-4.21 (m, 1H), 4.03 (dd, J=11.6, 4.6 Hz, 2H), 3.28 (t, J=1.7 Hz, 2H), 2.14-2.04 (m, 2H), 1.81-1.78 (m, 2H). MS: (M1H m/z=382.2).

reactant | 5-amino-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carbonitrile | ˜228 mmol | NC1=C(C=NN1C1CCOCC1)C#N | C9H12N4O
reactant | H2O2 | 100 mL | OO | H2O2
reactant | ammonia | 300 mL | N | H3N
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 5-amino-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxamide | 65% yield | NC1=C(C=NN1C1CCOCC1)C(=O)N | C9H14N4O2
